US06617336B1
15.3 g (101 mol) of 3-methoxy-2-aminobenzaldehyde and 14 ml (105 mol) of propiophenone are dissolved in 400 ml of ethanol. 1.4 g (25 mol) of potassium hydroxide are added to the reaction mixture and the latter is brought to 100° C. for 8 hours. After cooling the reaction medium, the latter is concentrated under vacuum and 200 ml of water are added. A yellow precipitate forms after a few minutes. The medium is filtered and the yellow precipitate is taken up in a mixture of 300 ml of ethyl ether and of 200 ml of a 1N hydrochloric acid solution. The aqueous phase is extracted with 2×100 ml of ethyl ether. Then, after addition of 300 ml of methylene chloride, 100 ml of a 3N sodium hydroxide solution are added to the aqueous phase. The latter is then extracted with 3×200 ml of methylene chloride. The organic phases are combined, dried over magnesium sulfate, filtered and concentrated under vacuum. 21.2 g of 2-phenyl-3-methyl-8-methoxyquinoline are obtained in the form of a pale yellow solid; M.p.=105° C. (Yield: 85%)

reactant | 3-methoxy-2-aminobenzaldehyde | 101 mol, 15.3 g | COC=1C(=C(C=O)C=CC1)N | C8H9NO2
reactant | propiophenone | 105 mol, 14 ml | C(CC)(=O)C1=CC=CC=C1 | C9H10O
reactant | potassium hydroxide | 25 mol, 1.4 g | [OH-].[K+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-phenyl-3-methyl-8-methoxyquinoline | 21.2 g, Yield: 85% | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1C)OC | C17H15NO
